US07919628B2
To a solution of 80 mg of 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester, 52 mg 4-bromobenzyl alcohol and 73 mg triphenyl phosphine in 3 ml of dry THF 56 mg of diisopropylazodicarboxylate were added. After 2 h at room temperature 36 mg of triphenylphosphine and 25 mg of diisopropylazo-dicarboxylate were added, and after 16 h again 36 mg of triphenylphosphine and 25 mg of diisopropylazodicarboxylate were added. After additional 24 h the reaction was concentrated in vacuo and after chromatography on silica (ethyl acetate/heptane) 96 mg of 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester were obtained.

reactant | 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 80 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)=O | C16H17NO4
reactant | 4-bromobenzyl alcohol | 52 mg | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | triphenyl phosphine | 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 25 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 ml, 56 mg | C1CCOC1 | C4H8O
product | 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC1=CC=C(C=C1)Br)=O | C23H22BrNO4
